2181-02-28 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -continued to require po diazepam Q2 hours
   -continued to complain of headache
   -detailed reccs by psychiatry -> plan to taper diazepam daily as
   follows
       [**2-28**] -- Diazepam 15mg PO q2
       [**3-1**] -- Diazepam 10mg PO q2
       [**3-2**] -- Diazepam 5mg PO q2
   -Continue CIWA protocol, but remove PRN's and only give if
   objective signs of withdrawal (worsened tremor, diaphoresis,
   hyperautonomia)
 MULTI LUMEN - START [**2181-2-27**] 01:38 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-28**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.2
C (95.4
   HR: 73 (69 - 104) bpm
   BP: 101/55(65){101/52(64) - 143/88(103)} mmHg
   RR: 18 (8 - 18) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,255 mL
                                                                    301 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    175 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,550 mL
   Urine:
                                                                  1,550 mL
                                                                  1,550 mL
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                   -295 mL
                                                                 -1,250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   12.3 g/dL
   86 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   9 mg/dL
   106 mEq/L
   140 mEq/L
   38.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2181-2-25**]  04:49 AM
                             [**2181-2-25**]  05:08 PM
                             [**2181-2-26**]  04:18 AM
                             [**2181-2-26**]  02:50 PM
                             [**2181-2-27**]  01:22 AM
                             [**2181-2-28**]  04:13 AM
   WBC
   4.1
   4.9
   5.9
   7.5
   Hct
   32.4
   35.3
   34.0
   38.4
   Plt
   183
   167
   195
   200
   Cr
   0.7
   0.8
   0.7
   0.8
   0.7
   0.8
   Glucose
   77
   166
   90
   100
   92
   86
   Other labs: PT / PTT / INR:12.4/34.1/1.0, ALT / AST:44/69, Alk Phos / T
   Bili:104/0.5, Albumin:3.6 g/dL, LDH:172 IU/L, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 NEUROPATHY, PERIPHERAL
 ANEMIA, OTHER
   transfuse for HCT <21
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-2-27**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-28 12:03:00 Physician Attending Progress Note
Chief Complaint: Alcohol withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still getting benzo's every 2 hours. Beginning taper of dose. AFebrile
   with stable hemodynamics and good oxygen saturation. Patient
   demonstrating an "autodiuresis". Patient threatening to leave AMA;
   looking for narcotics.
   24 Hour Events:
 MULTI LUMEN - START [**2181-2-27**] 01:38 PM
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   heparin sc
   colace
   MVI
   folic acid
   Zantac
   Neurontin
   Valium
   thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: Headache, Tremor
   Flowsheet Data as of  [**2181-2-28**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 85 (63 - 104) bpm
   BP: 113/64(75){90/52(62) - 143/88(103)} mmHg
   RR: 16 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,265 mL
                                                                    545 mL
   PO:
                                                                    360 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    185 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  2,150 mL
   Urine:
                                                                  1,550 mL
                                                                  2,150 mL
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                   -285 mL
                                                                 -1,605 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Disheveled.
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Pharynx dry
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), PMI diffuse
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   200 K/uL
   86 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   9 mg/dL
   106 mEq/L
   140 mEq/L
   38.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2181-2-25**]  04:49 AM
                             [**2181-2-25**]  05:08 PM
                             [**2181-2-26**]  04:18 AM
                             [**2181-2-26**]  02:50 PM
                             [**2181-2-27**]  01:22 AM
                             [**2181-2-28**]  04:13 AM
   WBC
   4.1
   4.9
   5.9
   7.5
   Hct
   32.4
   35.3
   34.0
   38.4
   Plt
   183
   167
   195
   200
   Cr
   0.7
   0.8
   0.7
   0.8
   0.7
   0.8
   Glucose
   77
   166
   90
   100
   92
   86
   Other labs: PT / PTT / INR:12.4/34.1/1.0, ALT / AST:44/69, Alk Phos / T
   Bili:104/0.5, Albumin:3.6 g/dL, LDH:172 IU/L, Ca++:9.0, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 NEUROPATHY, PERIPHERAL
 ANEMIA, OTHER
   transfuse for HCT <21
   Tremor less impressive on exam. Patient angry; asking for "something
   stronger" for pain. Will try Toradol and/or darvon. Concern about
   polysubstance abuse in the past. Continue taper of benzo's.
   Hemodynamics stable.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes